US06229026B1
5-tert. Butoxycarbonylphthalid
5-Carboxyphthalid (100 g, 0.56 mole) is suspended in pyridine (1200 mL). p-toluenesulfonyl chloride (211 g, 1.12 mole) is added and the mixture is stirred for 30 minutes at room temperature. Tert.Butanol (54 g, 0.73 mole) is added and the reaction mixture is left at room temperature with efficient stirring for 3 days. The clear solution is poured into ice water and the precipitated crystals are filtered off. The product is recrystallized from 2-propanol (500 mL). Yield: 123 g, 94%. DSC onset: 151.5° C.

reactant | 5-Carboxyphthalid | 0.56 mole, 100 g | C(=O)(O)C=1C=C2COC(=O)C2=CC1 | C9H6O4
reactant | p-toluenesulfonyl chloride | 1.12 mole, 211 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Tert.Butanol | 0.73 mole, 54 g | C(C)(C)(C)O | C4H10O
solvent | pyridine | 1200 mL | N1=CC=CC=C1 | C5H5N
product | 5-tert. Butoxycarbonylphthalid | C(C)(C)(C)OC(=O)C=1C=C2COC(=O)C2=CC1 | C13H14O4
